US04061761
3-(4-chloro-3-sulfamoylphenyl)-3-hydroxy-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 2.4 g of ground 3,4,5,6-tetrahydro-2-pyrimidine-thiol were reacted in the manner described in Example 12, the reaction mixture was precipitated with 200 ml of diethyl ether, the solvent was decanted and the oily end product was crystallized under warm ethyl acetate. Colorless crystalline solid body, melting point: 180° C (decomposition).

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 3,4,5,6-tetrahydro-2-pyrimidine-thiol | N1=C(NCCC1)S | C4H8N2S
product | 3-(4-chloro-3-sulfamoylphenyl)-3-hydroxy-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(CSC=2N1CCCN2)O)S(N)(=O)=O | InChI=1S/C12H14ClN3O3S2.ClH/c13-9-3-2-8(6-10(9)21(14,18)19)12(17)7-20-11-15-4-1-5-16(11)12;/h2-3,6,17H,1,4-5,7H2,(H2,14,18,19);1H
